US05106871
Then, 7.00 g of 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(3-isopentyl-4-methoxymethoxyphenyl)-1-propanone was dissolved in 17.5 ml of methanol, and 52.0 ml of a hydrochloric acid/methanol reagent was added to the solution and the mixture was refluxed for 30 minutes. The reaction liquid was poured into ice water and extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and a saturated aqueous solution of sodium chloride in sequence and dried with anhydrous sodium sulfate. The solvent was removed by distillation and the obtained residue was recrystallized from chloroform to obtain 3.84 g (yield=72.4%) of 1-(2,4,6-trihydroxy-3-isopentylphenyl)-3-(4-hydroxy-3-isopentylphenyl)-1-propanone.

reactant | 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(3-isopentyl-4-methoxymethoxyphenyl)-1-propanone | 7.00 g | OC1=C(C(=CC(=C1CCC(C)C)OCOC)OCOC)C(CCC1=CC(=C(C=C1)OCOC)CCC(C)C)=O | C31H46O8
reactant | hydrochloric acid methanol | 52.0 ml | Cl.CO
solvent | methanol | 17.5 ml | CO | CH4O
product | 1-(2,4,6-trihydroxy-3-isopentylphenyl)-3-(4-hydroxy-3-isopentylphenyl)-1-propanone | 3.84 g, yield=72.4% | OC1=C(C(=CC(=C1CCC(C)C)O)O)C(CCC1=CC(=C(C=C1)O)CCC(C)C)=O | C25H34O5
